US05459151
2-[4-(3-Cyclopentylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-N-hydroxy-2-oxo-acetamide
To a stirred solution of 2-[4-(3-cyclopentylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester (0.4 mmol, 0.150 g) in methanol (5 mL) was added hydroxylamine.HCl (1.6 mmol, 0.111 g), followed by potassium hydroxide/methanol solution (5 M solution; 0.4 mL) dropwise at room temperature. A white solid precipitated out of solution as this reaction stirred for 3 hours. The reaction went to completion as seen by TLC. The reaction mixture was diluted with H2O (100 mL), acidified with 1N HCl and extracted with EtOAc (3×100 mL). Each organic phase was washed with H2O (1×50 mL) and the combined organics were dried (Na2SO4) and concentrated in vacuo to a white solid. The solid was triturated in Et2O/hexane to afford pure white crystals which were dried overnight at 45° C. to give the title compound, mp 127°-128° C. (0.3 mmol, 0.017 g, 75%).

reactant | 2-[4-(3-cyclopentylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester | 0.4 mmol, 0.150 g | C(C)OC(C(N1CCC(CC1)C1=CC(=C(C=C1)OC)C=C1CCCC1)=O)=O | C22H29NO4
reactant | hydroxylamine | NO | H3NO
reactant | HCl | 1.6 mmol, 0.111 g | Cl | ClH
reactant | potassium hydroxide methanol | 5 M, 0.4 mL | [OH-].[K+].CO
solvent | methanol | 5 mL | CO | CH4O
product | 2-[4-(3-Cyclopentylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-N-hydroxy-2-oxo-acetamide | C1(CCCC1)=CC=1C=C(C=CC1OC)C1CCN(CC1)C(C(=O)NO)=O | C20H26N2O4
